US04902700
Synthesis of 2-[trans-3-(2-carboxyethoxy)styryl]benzothiazole (compound No. 429)
To 3 ml of dimethylformamide were added 47 mg of 60% sodium hydride and 300 mg of 2-(trans-3-hydroxystyryl)benzothiazole, and the mixture was stirred at room temperature for 30 minutes. Then, 74 μl of β-propiolactone was added and the mixture was further stirred for 4.5 hours. The acidic portion was extracted in a conventional manner with chloroform, and after drying over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure and the crude crystals were washed with ethyl ether, followed by drying under reduced pressure to give 118 mg (yield 31%) of the title compound.

reactant | sodium hydride | 47 mg | [H-].[Na+]
reactant | 2-(trans-3-hydroxystyryl)benzothiazole | 300 mg | OC=1C=C(/C=C/C=2SC3=C(N2)C=CC=C3)C=CC1 | C15H11NOS
reactant | β-propiolactone | 74 μl | C1(CCO1)=O | C3H4O2
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-[trans-3-(2-carboxyethoxy)styryl]benzothiazole | 118 mg, yield 31% | C(=O)(O)CCOC=1C=C(/C=C/C=2SC3=C(N2)C=CC=C3)C=CC1 | C18H15NO3S
